US03998834
A mixture of 10 parts of 4-(methoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine and 200 parts of acetic acid is hydrogenated at normal pressure and at room temperature with 2parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The oily residue is dissolved in water, cooled and alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol, saturated with gaseous ammonia, as eluent. The pure fractions are collected and the eluent is evaporated, yielding 4-(methoxymethyl)-N-phenyl-4-piperidinamine as an oily residue.

reactant | 4-(methoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine | COCC1(CCN(CC1)CC1=CC=CC=C1)NC1=CC=CC=C1 | C20H26N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(methoxymethyl)-N-phenyl-4-piperidinamine | COCC1(CCNCC1)NC1=CC=CC=C1 | C13H20N2O
